US07781591B2
To a solution of 4-(3,4-dimethoxyphenyl)-3-oxo-butyronitrile (5.0 g, 23 mmol) in DMF (12 mL) was added dimethylformamide-dimethylacetal (DMF-DMA, 13.5 mL, 101 mmol) and the solution heated at 122° C. overnight. Concentration on a rotary evaporator under high vacuum gave an orange-red solid. This solid was dissolved in EtOH (100 mL) and excess ammonium acetate was added and the reaction mixture was heated at 85° C. for 1 h. The reaction mixture was allowed to cool to room temperature (r.t.) for 1 h then the solids were collected by filtration and washed with EtOH (cold) to give 5-(3,4-dimethoxyphenyl)-4-hydroxynicotinonitrile (4.1 g, 69%) as a brown solid. The filtrate was concentrated on a rotary evaporator and the residue purified on silica gel with 0-25% MeOH in CH2Cl2 to give an additional amount of 5-(3,4-dimethoxyphenyl)-4-hydroxynicotinonitrile.

reactant | 4-(3,4-dimethoxyphenyl)-3-oxo-butyronitrile | 23 mmol, 5.0 g | COC=1C=C(C=CC1OC)CC(CC#N)=O | C12H13NO3
reactant | dimethylformamide-dimethylacetal | 101 mmol, 13.5 mL | COC(N(C)C)OC | C5H13NO2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | EtOH | 100 mL | CCO | C2H6O
product | 5-(3,4-dimethoxyphenyl)-4-hydroxynicotinonitrile | 4.1 g, 69% | COC=1C=C(C=CC1OC)C=1C=NC=C(C#N)C1O | C14H12N2O3
